US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(3-furylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.045 mmol) was reacted with 3-furaldehyde to provide 19 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.045 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | 3-furaldehyde | O1C=C(C=C1)C=O | C5H4O2
product | N1-(4-Methoxybenzoyl)-N2-[1-(3-furylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine | 19 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC2=COC=C2)C=C1 | C25H27N3O4
